US05861414
(i) 4-{2-[1-Benzyl-3-(1-tert-butoxycarbonylmethyl-piperidin-4-yl)-1H-indazol-6-yl]-(E)-vinyl}-piperidine-1-carboxylic acid tert-butyl ester
A solution of 4{-2-[3-(1-tert-butoxycarbonylmethyl-piperidin-4-yl)-1H-indazol-6-yl]-(E)-vinyl}-piperidine-1-carboxylic acid tert-butyl ester (152 mg, 0.29 mmol) in dry DMF (2 ml) under nitrogen was treated with sodium hydride (5 mg of a 60% dispersion in oil, 0.37 mmol) and stirred at +23° for 20 min. The solution was treated with a solution of benzyl bromide in dry DMF (0.1 ml of 3.14M solution, 0.314 mmol; Aldrich). The resulting mixture was stirred at +23° for 24 h and concentrated in vacuo. The residue was dissolved in dichloromethane (100 ml) and the solution washed with water (2×25 ml). The dried (MgSO4) organic layer was concentrated in vacuo onto silica (Merck 9385); purification by flash chromatography eluting with ether--cyclohexane (1:1) gave the title compound as a white foam (102 mg).

reactant | 4{-2-[3-(1-tert-butoxycarbonylmethyl-piperidin-4-yl)-1H-indazol-6-yl]-(E)-vinyl}-piperidine-1-carboxylic acid tert-butyl ester | 0.29 mmol, 152 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)\C=C\C1=CC=C2C(=NNC2=C1)C1CCN(CC1)CC(=O)OC(C)(C)C | C30H44N4O4
reactant | sodium hydride | [H-].[Na+]
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 0.314 mmol, 3.14M, 0.1 ml | CN(C)C=O | C3H7NO
product | 4-{2-[1-Benzyl-3-(1-tert-butoxycarbonylmethyl-piperidin-4-yl)-1H-indazol-6-yl]-(E)-vinyl}-piperidine-1-carboxylic acid tert-butyl ester | 102 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)\C=C\C1=CC=C2C(=NN(C2=C1)CC1=CC=CC=C1)C1CCN(CC1)CC(=O)OC(C)(C)C | C37H50N4O4
